US05017212
Imidazo[1,5-a]pyridine-3-sulfonamide
N-(t-Butyl)imidazo[1,5-a]pyridine-3-sulfonamide (1.0 g) is dissolved in 20 ml of trifluoroacetic acid and stirred for 14 days at room temperature. The mixture is concentrated under reduced pressure, and ether is added to the residue to precipitate crystals. The crystals are collected by filtration and dried to give 0.60 g of the title compound. mp. 179°-180° C.

reactant | N-(t-Butyl)imidazo[1,5-a]pyridine-3-sulfonamide | 1.0 g | C(C)(C)(C)NS(=O)(=O)C1=NC=C2N1C=CC=C2 | C11H15N3O2S
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Imidazo[1,5-a]pyridine-3-sulfonamide | 0.60 g | C=1N=C(N2C1C=CC=C2)S(=O)(=O)N | C7H7N3O2S
